US08664217B2
A 1.0 M boron tribromide/dichloromethane solution (1.22 ml) was added to a dichloromethane solution (3 ml) of 1-ethyl-7-methoxy-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione (169 mg, 1.0 mmol) at 0° C., and stirred at room temperature overnight. Water and methanol were added to the reaction mixture and extraction with the mixture solvent (dichloromethane:methanol=10:1) was performed. The organic layer was dried over anhydrous sodium sulfate, and concentrated to dryness under reduced pressure to thereby obtain 156.4 mg (yield: 98%) of 1-ethyl-7-hydroxy-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione as a white powder.

reactant | boron tribromide dichloromethane | 1.0 M, 1.22 ml | B(Br)(Br)Br.ClCCl
reactant | 1-ethyl-7-methoxy-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 1.0 mmol, 169 mg | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OC | C15H20N2O3
reactant | Water | O | H2O
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 1-ethyl-7-hydroxy-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 156.4 mg, yield: 98% | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)O | C14H18N2O3
